US05932590
Preparation of 4-{3-[2-(3-methoxybenzoyl)-(S)-1,2,3,4-tetrahydro-isoquinolin-3-yl-methyl]-3H-imidazol-4-yl-methyl}-benzonitrile
A mixture of 4-{3-[(S)-1,2,3,4-tetrahydro-isoquinolin-3-yl-methyl]-3H-imidazol-4-yl-methyl}-benzonitrile (0.16 g, 0.487 mmol), 3-methoxybenzoic acid (0.074 g, 0.487 mmol), 1-hydroxybenzotriazole (0.075 g, 0.487 mmol), EDC (0.093 g, 0.487 mmol) and N-methylmorpholine (0.2 ml, 1.95 mmol) in 5 ml DMF was stirred for 18 hr at 25° C. The solvent was removed in vacuo. The residue was partitioned between ethyl acetate and saturated sodium bicarbonate. The ethyl acetate layer was dried with saturated sodium chloride and magnesium sulfate. Evaporation in vacuo of the ethyl acetate layer yielded the crude product. Purification was done on silica gel using methylene chloride:methanol:amonia hydroxide 98:2:0.2 and yielded the title compound.

reactant | 4-{3-[(S)-1,2,3,4-tetrahydro-isoquinolin-3-yl-methyl]-3H-imidazol-4-yl-methyl}-benzonitrile | 0.487 mmol, 0.16 g | C1N[C@@H](CC2=CC=CC=C12)CN1C=NC=C1CC1=CC=C(C#N)C=C1 | C21H20N4
reactant | 3-methoxybenzoic acid | 0.487 mmol, 0.074 g | COC=1C=C(C(=O)O)C=CC1 | C8H8O3
reactant | 1-hydroxybenzotriazole | 0.487 mmol, 0.075 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | EDC | 0.487 mmol, 0.093 g
reactant | N-methylmorpholine | 1.95 mmol, 0.2 ml | CN1CCOCC1 | C5H11NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-{3-[2-(3-methoxybenzoyl)-(S)-1,2,3,4-tetrahydro-isoquinolin-3-yl-methyl]-3H-imidazol-4-yl-methyl}-benzonitrile | COC=1C=C(C(=O)N2CC3=CC=CC=C3C[C@H]2CN2C=NC=C2CC2=CC=C(C#N)C=C2)C=CC1 | C29H26N4O2
